US05256675
A mixture of 2-acetylamino-4-hydroxymethylthiazole (7.0 g) and N-chlorosuccinimide (6.5 g) in acetic acid (70 ml) was heated at 40° C. for 3.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was added the aqueous sodium bicarbonate. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran (1:1), washed with water and dried over magnesium sulfate. The solvent was concentrated under reduced pressure and the residue was triturated with isopropyl ether. The precipitates were collected by filtration, washed with isopropyl ether and dried in vacuo to give 2-acetylamino-5-chloro-4-hydroxymethylthiazole (7.3 g, yield : 78.5%). mp: 145°-146° C. IR (Nujol) : 3150, 1690, 1550, 1285 cm-1

reactant | 2-acetylamino-4-hydroxymethylthiazole | 7.0 g | C(C)(=O)NC=1SC=C(N1)CO | C6H8N2O2S
reactant | N-chlorosuccinimide | 6.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 2-acetylamino-5-chloro-4-hydroxymethylthiazole | 7.3 g, 78.5% | C(C)(=O)NC=1SC(=C(N1)CO)Cl | C6H7ClN2O2S
